US07351827B2
A solution of 1H-1,2,3-triazole (0.043 g, 0.62 mmol) in dry CH2Cl2 (2 mL) was introduced to a stirred solution under N2 of 3-phenyl-1,5-dioxaspiro[3.2]hexane (0.10 g, 0.62 mmol) in dry CH2Cl2 (2 mL) at −78° C. After 3 hours at −78° C., the reaction was allowed to warm to room temperature; then, the solvent was evaporated in vacuo. The resultant oil was purified by flash chromatography on silica gel (CH2Cl2/EtOAc 95:5). 2-Hydroxymethyl-3-phenyl-2-(1,2,3-triazol-2-yl)oxetane was isolated as a pale yellow solid (0.076 g, 59%): mp 77.0-78.3° C.; IR (CDCl3) 3145, 3031, 2969, 1496, 1452, 1323, 1049 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.82 (s, 2H), 7.41 (m, 2H), 7.35 (m, 3H), 5.41 (dd, J=8.2, 7.7 Hz, 1H), 5.08 (dd, J=8.5, 6.0 Hz, 1H), 4.98 (dd, J=7.0, 6.0 Hz, 1H), 4.15 (dd, J=13.0, 7.6 Hz, 1H), 4.10 (dd, J=13.0, 7.6 Hz, 1H), 2.51 (t, J=7.6 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 135.3, 134.1, 128.8, 128.1, 128.0, 99.7, 68.5, 62.9, 47.9; MS (EI) m/z 200 (M+—CH2O), 185, 104 (100), 78; Anal. calculated for C12H13N3O2: C, 62.33; H, 5.67; N, 18.17. Found: C, 62.58; H, 5.30; N, 17.94.

reactant | 1H-1,2,3-triazole | 0.62 mmol, 0.043 g | N1N=NC=C1 | C2H3N3
reactant | 3-phenyl-1,5-dioxaspiro[3.2]hexane | 0.62 mmol, 0.10 g | C1(=CC=CC=C1)C1COC12OC2 | C10H10O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxymethyl-3-phenyl-2-(1,2,3-triazol-2-yl)oxetane | OCC1(OCC1C1=CC=CC=C1)N1N=CC=N1 | C12H13N3O2
